US05349050
(2) H-Pro-Asn-Ser-Pip-Arg-OH acetate
150 mg of Z-Pro-Asn-Ser(Bzl)-Pip-Arg(NO2)-OBzl was reduced in the presence of palladium-carbon in the same manner as in Example 12-(4). The resulting product was purified by high-performance liquid chromatography at 12 ml/min. (flow rate), 0 to 10% (B) 20 min. linear gradient (A) (mobile phase), subjected to Dowex 1×2 (acetate type) treatment and freeze-dried to obtain the desired compound.

reactant | Z-Pro-Asn-Ser(Bzl)-Pip-Arg(NO2)-OBzl | 150 mg | N1([C@H](C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)N2[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC3=CC=CC=C3)CCCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C46H58N10O12
catalyst | palladium-carbon | [C].[Pd]
product | H-Pro-Asn-Ser-Pip-Arg-OH acetate | N1[C@H](C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CO)C(=O)N2[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCCC2)CCC1.CC(=O)O | InChI=1S/C24H41N9O8.C2H4O2/c25-18(35)11-15(31-19(36)13-5-3-8-28-13)20(37)32-16(12-34)22(39)33-10-2-1-7-17(33)21(38)30-14(23(40)41)6-4-9-29-24(26)27;1-2(3)4/h13-17,28,34H,1-12H2,(H2,25,35)(H,30,38)(H,31,36)(H,32,37)(H,40,41)(H4,26,27,29);1H3,(H,3,4)/t13-,14-,15-,16-,17-;/m0./s1
